US04223016
(iv) PheValPheOMe.HCl
Compound (iii) (6.87 g) was BOC-deprotected in 2 N HCl in EtAc (100 ml) for 2 hours at room temperature when a white solid precipitated (5.84 g) representing 97% yield of product. M.P. 243°-245° (decomposition). T.L.C. in 9:1 CHCl3 :MeOH (I2 stain) shows one spot at Rf 0.59. [α]D25 =8.8° (C=1, AcOH). (v) BOC.PhePheValPheOMe

reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
reactant | PhePheValPheOMe | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C33H40N4O5
solvent | AcOH | CC(=O)O | C2H4O2
product | PheValPheOMe.HCl | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl | InChI=1S/C24H31N3O4.ClH/c1-16(2)21(27-22(28)19(25)14-17-10-6-4-7-11-17)23(29)26-20(24(30)31-3)15-18-12-8-5-9-13-18;/h4-13,16,19-21H,14-15,25H2,1-3H3,(H,26,29)(H,27,28);1H/t19-,20-,21-;/m0./s1
